US09079853B2
5-chloro-1-propylindoline-2,3-dione
Was prepared in an analogous manner to 1-propylindoline-2,3-dione using commercially available 5-chloroisatin (purchased from Fisher Scientific) and 1-bromo-propane (purchased from Fisher Scientific). 1H NMR δ 7.57 (m, 2H), 6.88 (d, 1H), 3.69 (t, 2H), 1.74 (m, 2H), 1.00 (t, 3H)

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-bromo-propane | BrCCC | C3H7Br
product | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
